US07923231B2
The enzyme reaction was carried out in 0.7 L reactors with temperature, pH, agitation and dissolved oxygen control. A solution of 50 g/L myo-inositol in 50 mM MOPS at pH 6.5 (200 mL) was used in the standard protocol. Temperature was controlled at 15° C. Pure air, air enriched with oxygen or pure oxygen were used to supply enough oxygen for the reaction to proceed. The air was supplied either in the headspace of the reactor or was sparged into the liquid. The formation of glucuronic acid results in a decrease in the pH of the broth. To keep the pH at the desired value, pH 6.5, the acid was neutralized with 4 N NaOH. The enzyme solution was added to reach an initial concentration of 2 g soluble protein/L. The reaction proceeded very fast immediately after the enzyme addition and the rate decayed over time. Different experiments varied the number and/or amount of enzyme additions. The progress of the reaction was followed by HPLC analysis.

reactant | oxygen | O=O | O2
reactant | myo-inositol | C1(C(C(C(C(C1O)O)O)O)O)O | C6H12O6
solvent | MOPS | 50 mM | C1COCCN1CCCS(=O)(=O)O | C7H15NO4S
product | glucuronic acid | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)C(=O)O | C6H10O7
